US07589105B2
2-Methyl-N,N′-bis(4,6-difluoro-3-hydroxyphenyl)-pyrimidine-4,6-diamine (Exemplified Compound No. 1-171)
This compound was obtained (yield 57%) based on the method described in Production Example 2B using 4,6-dichloro-2-methylpyrimidine instead of the 4,6-dichloro-2-ethylpyrimidine, and using 5-amino-2,4-difluorophenol instead of the 3-aminophenol.

reactant | 4,6-dichloro-2-methylpyrimidine | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | 5-amino-2,4-difluorophenol | NC=1C(=CC(=C(C1)O)F)F | C6H5F2NO
product | 2-Methyl-N,N′-bis(4,6-difluoro-3-hydroxyphenyl)-pyrimidine-4,6-diamine | yield 57% | CC1=NC(=CC(=N1)NC1=CC(=C(C=C1F)F)O)NC1=CC(=C(C=C1F)F)O | C17H12F4N4O2
